US07645789B2
To a solution of 6-nitroindole (4.9 g 30 mmol) in DMF (24 mL) and CH3CN (240 mL) was added dropwise a solution of CISO2NCO (5.0 mL) in CH3CN (39 mL) at 0° C. After addition, the reaction was allowed to warm to room temperature and was stirred for 2 h. The mixture was then poured into ice-water and basified with sat. NaHCO3 solution to pH 7˜8. The mixture was extracted with ethyl acetate. The organics were washed with brine, dried over Na2SO4 and concentrated to give 6-nitro-1H-indole-3-carbonitrile (4.6 g, 82%).

reactant | 6-nitroindole | 30 mmol, 4.9 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | DMF | 24 mL | CN(C)C=O | C3H7NO
solvent | CH3CN | 240 mL | CC#N | C2H3N
solvent | CH3CN | 39 mL | CC#N | C2H3N
product | 6-nitro-1H-indole-3-carbonitrile | 4.6 g, 82% | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C#N | C9H5N3O2
